US04933333
8.6 g of trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-proline-p-methoxybenzyl ester and 7.86 g of triphenylphosphine were dissolved in 20 ml of dried tetrahydrofuran. To the resulting solution was added dropwise a solution of 5.22 g of diethyl azodicarboxylate in 5 ml of dried tetrahydrofuran under ice-cooling in a nitrogen stream, followed by stirring for 30 minutes at that temperature. Thereafter, 2.28 g of thioacetic acid was added thereto dropwise, and the mixture was stirred for 1 hour under ice-cooling and then at room temperature for 3 hours, followed by concentration. The residue was purified by silica gel column chromatography to obtain cis-1-(p-nitrobenzyloxycarbonyl)-4-acetylthio-L-proline p-methoxybenzyl ester.

reactant | trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-proline-p-methoxybenzyl ester | 8.6 g | COC1=CC=C(COC([C@H]2N(C[C@@H](C2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C21H22N2O8
reactant | triphenylphosphine | 7.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.22 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thioacetic acid | 2.28 g | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | cis-1-(p-nitrobenzyloxycarbonyl)-4-acetylthio-L-proline p-methoxybenzyl ester | COC1=CC=C(COC([C@H]2N(C[C@H](C2)C(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=S)C=C1 | C23H24N2O7S
